US07312233B2
(7-amino-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol
(7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol (1.0 g, 4.7 mmol) was dissolved in methanol (30 ml) and palladium on activated carbon was added (0.10 g, 5% wt). The mixture was shaken on a parr shaker under H2(g) atmosphere (60 psi) for 24 hours. The mixture was filtered through celite and evaporated to give 722 mg of material as a white solid (86%), which was used as such for the next step. M/z=182 (m+1). Lc: 0.82 minutes.

reactant | (7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol | 4.7 mmol, 1.0 g | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)CO)C1 | C9H9NO5
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on activated carbon | [Pd] | Pd
product | (7-amino-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol | 722 mg, 86% | NC=1C=CC2=C(OC(CO2)CO)C1 | C9H11NO3
